US07579469B2
7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methylsulfanyl-2,3-dihydrobenzofuran was reacted with 4-hydroxyquinoline and sodium ethoxide according to Example 35 to give 1-[2-hydroxy-4-methyl-4-(5-methylsulfanyl-2,3-dihydrobenzofuran-7-yl)-2-trifluoromethylpentyl]-1H-quinolin-4-one.

reactant | 7-[1,1-dimethyl-2-(2-trifluoromethyloxiranyl)ethyl]-5-methylsulfanyl-2,3-dihydrobenzofuran | CC(CC1(OC1)C(F)(F)F)(C)C1=CC(=CC=2CCOC21)SC | C16H19F3O2S
reactant | 4-hydroxyquinoline | OC1=CC=NC2=CC=CC=C12 | C9H7NO
reactant | sodium ethoxide | [O-]CC.[Na+]
product | 1-[2-hydroxy-4-methyl-4-(5-methylsulfanyl-2,3-dihydrobenzofuran-7-yl)-2-trifluoromethylpentyl]-1H-quinolin-4-one | OC(CN1C=CC(C2=CC=CC=C12)=O)(CC(C)(C1=CC(=CC=2CCOC21)SC)C)C(F)(F)F | C25H26F3NO3S
